US06962932B2
36.44 g (5-chloro-2-nitrophenyl)-(4-fluorophenyl)amine was added to a solution that consists of 6.6 g of sodium in 450 ml of methanol, and it was refluxed for 16 hours. After another 30 hours of stirring at 60° C., it was cooled, and the crystalline product was suctioned off. 34 g of (5-methoxy-2-nitrophenyl)-(4-fluorophenyl)amine was obtained.

reactant | (5-chloro-2-nitrophenyl)-(4-fluorophenyl)amine | 36.44 g | ClC=1C=CC(=C(C1)NC1=CC=C(C=C1)F)[N+](=O)[O-] | C12H8ClFN2O2
reactant | sodium | 6.6 g | [Na] | Na
reactant | methanol | 450 ml | CO | CH4O
product | (5-methoxy-2-nitrophenyl)-(4-fluorophenyl)amine | 34 g | COC=1C=CC(=C(C1)NC1=CC=C(C=C1)F)[N+](=O)[O-] | C13H11FN2O3
